US05891909
c) 3-[3-(2-Cyanophenylsulfonyloxy)-5-methylphenoxy]propionaldehyde
Sulfur trioxide pyridine complex (480 mg, 3.0 mmol) was added to a solution of 3-[3-(2-cyanophenylsulfonyloxy)-5-methylphenoxy]propanol (315 mg, 0.9 mmol), as prepared in the preceding step, N,N-diisopropylethylamine (0.5 mL, 3.9 mmol) and anhydrous dimethyl sulfoxide (0.2 mL, 2.8 mmol) in anhydrous dichloromethane (10 mL). The reaction mixture was stirred at ambient temperature for 1 hour and then quenched with 10% aqueous citric acid (30 mL). The mixture was extracted into dichloromethane (3×40 mL), and the dichloromethane solution was washed with 10% aqueous citric acid (30 mL) and dried over Na2SO4. After removing the solvent in vacuo, the residue was purified by flash column chromatography (dichloromethane) to give the title compound as a colorless oil (260 mg, 83%). 1H-NMR (300 MHz, CDCl3) δ 9.84 (s, 1H), 8.11 (m, 1H), 7.94 (m, 1H), 7.78-7.81 (m, 2H), 6.65 (s, 1H), 6.61 (s, 1H), 6.57 (s, 1H), 4.24 (t, J=6.0 Hz, 2H), 2.88 (t, J=6.0 Hz, 2H), 2.27 (s, 3H).

reactant | 3-[3-(2-cyanophenylsulfonyloxy)-5-methylphenoxy]propanol | 0.9 mmol, 315 mg | C(#N)C1=C(C=CC=C1)S(=O)(=O)OC=1C=C(OCCCO)C=C(C1)C | C17H17NO5S
reactant | N,N-diisopropylethylamine | 3.9 mmol, 0.5 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | dimethyl sulfoxide | 2.8 mmol, 0.2 mL | CS(=O)C | C2H6OS
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 3-[3-(2-Cyanophenylsulfonyloxy)-5-methylphenoxy]propionaldehyde | 260 mg, 83% | C(#N)C1=C(C=CC=C1)S(=O)(=O)OC=1C=C(OCCC=O)C=C(C1)C | C17H15NO5S
